US07612055B2
xx) 2-Chloro-6-methyl-isonicotinic acid tert-butyl ester
A suspension of 0.2 g (1.17 mmol) 2-chloro-6-methyl-isonicotinic acid in 5 ml toluene is treated with 2 drops of DMF and 0.17 ml (2.33 mmol) SOCl2 and refluxed for 4 h. The mixture is concentrated under reduced pressure and the residue is taken up in 1.5 ml DCM, 0.22 ml tBuOH and 0.24 ml Et3N and stirred in the presence of 7 mg (0.06 mmol) DMAP for 18 h. The mixture is diluted with DCM, washed with 10% aqueous citric acid, water and 10% aqueous NaHCO3, dried with sodium sulfate and evaporated. Chromatography of the product on silica gel (hexane/EtOAc 4:1 and 3:1) yields the title compound as a yellowish solid.

reactant | 2-chloro-6-methyl-isonicotinic acid | 1.17 mmol, 0.2 g | ClC=1C=C(C(=O)O)C=C(N1)C | C7H6ClNO2
reactant | SOCl2 | 2.33 mmol, 0.17 ml | O=S(Cl)Cl | Cl2OS
reactant | tBuOH | 0.22 ml | CC(C)(C)O | C4H10O
reactant | Et3N | 0.24 ml | CCN(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.06 mmol, 7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-Chloro-6-methyl-isonicotinic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=NC(=C1)C)Cl)=O | C11H14ClNO2
